US07157455B2
The same procedure as described in Example 60 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt, Example 59, and methanesulfonyl chloride (Aldrich), to give [4-amino-2-(1-methanesulfonyl-piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone. MS (M+H)+, 424.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCNCC1
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | [4-amino-2-(1-methanesulfonyl-piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCN(CC1)S(=O)(=O)C | C18H22FN5O4S
